US06706731B2
Under an N2 atmosphere, 250 mg (0.93 mmol) of 1-chloro-4-(2-pyridin-3-yl-ethyl)-isoquinoline in 2.9 ml of abs. ethanol are mixed with 131 mg (1.02 mmol) of 4-chloro-aniline and 0.23 ml of 4 N HCl/dioxane, and stirred for 8 h at 80° C. The mixture is cooled to RT, filtered and the residue washed with acetonitrile. The residue is dissolved in 4 ml of water, then 0.9 ml of sat. NH3 solution are added, stirring is effected for 10 min, the precipitate is filtered off and washed with water. Recrystallisation from acetonitrile yields 1-(4-chloroanilino)-4-[2-(pyridin-3-yl)-ethyl]-isoquinoline; m.p.157-158° C.

reactant | 1-chloro-4-(2-pyridin-3-yl-ethyl)-isoquinoline | 0.93 mmol, 250 mg | ClC1=NC=C(C2=CC=CC=C12)CCC=1C=NC=CC1 | C16H13ClN2
reactant | 4-chloro-aniline | 1.02 mmol, 131 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | HCl dioxane | 4 N, 0.23 ml | Cl.O1CCOCC1
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-chloroanilino)-4-[2-(pyridin-3-yl)-ethyl]-isoquinoline | ClC1=CC=C(NC2=NC=C(C3=CC=CC=C23)CCC=2C=NC=CC2)C=C1 | C22H18ClN3
